US06166064
1-(5-Fluoro-2,3-dihydro-indol-yl)-ethanone
Acetyl chloride (3 ml) was added dropwise to a solution of 7 grams of crude 5-fluoro-2,3-dihydro--1H-indole and 3 ml of triethylamine in 100 ml of CH2Cl2 at 0° C. After two hours, the reaction was diluted with water. The methylene chloride layer was separated, dried and evaporated to afford 7.3 grams of crude product which was purified on silica gel eluting with hexane/ethyl acetate to give 3.3 grams of the titled compound.

reactant | Acetyl chloride | 3 ml | C(C)(=O)Cl | C2H3ClO
reactant | 5-fluoro-2,3-dihydro--1H-indole | 7 grams | FC=1C=C2CCNC2=CC1 | C8H8FN
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-(5-Fluoro-2,3-dihydro-indol-yl)-ethanone | 3.3 grams | FC=1C=C2CC(NC2=CC1)C(C)=O | C10H10FNO
